US04401824
Treatment of 3-bromo-2-methoxyphenol with dihydropyran and an acid catalyst as described herein affords 2-methoxy-3-tetrahydropyranyloxy-1-bromobenzene.

reactant | 3-bromo-2-methoxyphenol | BrC=1C(=C(C=CC1)O)OC | C7H7BrO2
reactant | dihydropyran | O1CCCC=C1 | C5H8O
product | 2-methoxy-3-tetrahydropyranyloxy-1-bromobenzene | COC1=C(C=CC=C1OC1OCCCC1)Br | C12H15BrO3
